US07232821B2
3-{2-[5-Trifluoromethyl-2-(2,4-difluorobenzyloxy)phenyl]cyclopent-1-enyl}-6-aminobenzoic acid ethyl ester
Prepared by general procedure C(iii) but using 2-(2,4-difluorobenzyloxy)-5-trifluoromethylphenylboronic acid instead of 2-(benzyloxy)-5-chlorophenylboronic acid and 3-(2-bromocyclopent-1-enyl)-6-aminobenzoic acid ethyl ester instead of 3-(2-bromo-cyclopent-1-enyl)-methylbenzoic acid ethyl ester.

reactant | 2-(2,4-difluorobenzyloxy)-5-trifluoromethylphenylboronic acid | FC1=C(COC2=C(C=C(C=C2)C(F)(F)F)B(O)O)C=CC(=C1)F | C14H10BF5O3
reactant | 3-(2-bromocyclopent-1-enyl)-6-aminobenzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1N)C1=C(CCC1)Br)=O | C14H16BrNO2
product | 3-{2-[5-Trifluoromethyl-2-(2,4-difluorobenzyloxy)phenyl]cyclopent-1-enyl}-6-aminobenzoic acid ethyl ester | C(C)OC(C1=CC(=CC=C1N)C1=C(CCC1)C1=C(C=CC(=C1)C(F)(F)F)OCC1=C(C=C(C=C1)F)F)=O | C28H24F5NO3
